US05807887
A catalytic amount of p-toluenesulfonic acid is added to a solution of 1.5 g of 2-methyl-5-(1,3-dioxoran-2-yl)benzo[b]thiophene in 20 ml of acetone at room temperature, at which temperature the resulting mixture is stirred for 30 minutes. After the reaction, the solvent is removed from the reaction mixture by distillation under reduced pressure. The residue obtained are added 20 ml of water and 20 ml of ethyl acetate, after which the resulting organic layer is separated, washed successively with water and a saturated saline solution and then dried over anhydrous magnesium sulfate. The solvent is thereafter removed from the thus dried layer by distillation under reduced pressure, to obtain 1.15 g of colorless, solid 2-methylbenzo[b]thiophene-5-carbaldehyde.

reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 20 ml | O | H2O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-methylbenzo[b]thiophene-5-carbaldehyde | CC1=CC2=C(S1)C=CC(=C2)C=O | C10H8OS
